US07820700B2
Methyl 2-(3-cyano-4-benzyloxy-5-fluorophenyl)isonicotinate is stirred at room temperature in methanol-THF (1:1) under a hydrogen atmosphere at normal pressure in the presence of palladium-carbon to obtain methyl 2-(3-cyano-5-fluoro-4-hydroxyphenyl)isonicotinate. FN: 271.

reactant | Methyl 2-(3-cyano-4-benzyloxy-5-fluorophenyl)isonicotinate | C(#N)C=1C=C(C=C(C1OCC1=CC=CC=C1)F)C=1C=C(C(=O)OC)C=CN1 | C21H15FN2O3
solvent | methanol THF | CO.C1CCOC1
catalyst | palladium-carbon | [C].[Pd]
product | methyl 2-(3-cyano-5-fluoro-4-hydroxyphenyl)isonicotinate | C(#N)C=1C=C(C=C(C1O)F)C=1C=C(C(=O)OC)C=CN1 | C14H9FN2O3
